US08557876B2
1,1,2,3,3-Pentamethyl-octahydro-inden-4-one is first prepared by the hydrogenation of 1,1,2,3,3-pentamethyl-1,2,3,5,6,7-hexahydro-inden-4-one (Cashmeran®) (commercially available at IFF). 1,1,2,3,3-Pentamethyl-hexahydro-indene-4,5-dione is subsequently prepared with 1,1,2,3,3-pentamethyl-octahydro-inden-4-one (prepared as described by Barton in Tetrahedron Letters, 1984, 25(6), pages: 603-606). A 100 mL reaction flask is charged with 1,1,2,3,3-pentamethyl-hexahydro-indene-4,5-dione (10 g, 0.04 mol), thioacetamide (3.5 g, 0.04 mol), and diglyme (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sodium carbonate (10%, 100 mL) followed by twice with brine (30 mL). Diglyme is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 2,6,6,7,8,8-hexamethyl-5,5a,6,7,8,8a-hexahydro-4H-3-thia-1-aza-as-indacene (˜10 g) is obtained.

reactant | 1,1,2,3,3-Pentamethyl-octahydro-inden-4-one | CC1(C(C(C2C(CCCC12)=O)(C)C)C)C | C14H24O
reactant | 1,1,2,3,3-pentamethyl-1,2,3,5,6,7-hexahydro-inden-4-one | CC1(C(C(C=2C(CCCC12)=O)(C)C)C)C | C14H22O
reactant | 1,1,2,3,3-Pentamethyl-hexahydro-indene-4,5-dione | CC1(C(C(C2C(C(CCC12)=O)=O)(C)C)C)C | C14H22O2
reactant | 1,1,2,3,3-pentamethyl-hexahydro-indene-4,5-dione | 0.04 mol, 10 g | CC1(C(C(C2C(C(CCC12)=O)=O)(C)C)C)C | C14H22O2
reactant | thioacetamide | 0.04 mol, 3.5 g | C(C)(=S)N | C2H5NS
solvent | diglyme | 50 mL | COCCOCCOC | C6H14O3
product | 2,6,6,7,8,8-hexamethyl-5,5a,6,7,8,8a-hexahydro-4H-3-thia-1-aza-as-indacene | ˜10 g | CC1=NC=2C3C(C(C(C3CCC2S1)(C)C)C)(C)C | C16H25NS
